US05395824
Preparation of N-Benzyloxycarbonyl-L-leucine-[1-(1-hydroxy-2-ethoxycarbonylethyl)]pentylamide
To 10 ml of anhydrous THF were added 360 mg of zinc powder and a small amount of iodide, and the mixture was heated at reflux. A solution of 0.54 ml of ethyl bromoacetate in 6.0 ml of anhydrous THF was added thereto dropwise, followed by heating at reflux for 5 minutes. A solution of 1.0 g of N-benzyloxycarbonyl-L-leucine-(1-formyl)pentylamide prepared in the same manner as in Example 4-(b) in 14 ml of anhydrous benzene was then added thereto dropwise, followed by heating at reflux for 30 minutes. After allowing the mixture to cool, 1N hydrochloric acid was added thereto, and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, and the residue was purified by medium-pressure column chromatography on silica gel to obtain 410 mg of the titled compound as an oily substance.

reactant | iodide | [I-]
reactant | ethyl bromoacetate | 0.54 ml | BrCC(=O)OCC | C4H7BrO2
reactant | N-benzyloxycarbonyl-L-leucine-(1-formyl)pentylamide | 1.0 g | C(=O)C(CCCC)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C20H30N2O4
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 6.0 ml | C1CCOC1 | C4H8O
solvent | benzene | 14 ml | C1=CC=CC=C1 | C6H6
catalyst | zinc | 360 mg | [Zn] | Zn
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-Benzyloxycarbonyl-L-leucine-[1-(1-hydroxy-2-ethoxycarbonylethyl)]pentylamide | 410 mg | OC(CC(=O)OCC)C(CCCC)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C24H38N2O6
